US07250518B2
2-(4-Cyano-3-fluoro-phenyl)-propionic acid methyl ester of Formula (6.0.46):
(4-Cyano-3-fluoro-phenyl)-acetic acid methyl ester (3.06 g, 15.84 mmol) was dissolved in anhydrous tetrahydrofuran (60 mL) and cooled in a dry ice-acetone bath. Lithium bis(trimethylsilyl)amide (1.0 M in tetrahydrofuran, 17.42 mL) was added under a nitrogen atmosphere. The solution was stirred for 1 h, at which point methyliodide (4.91 mL) was added dropwise. The reaction was allowed to warm to ambient temperature while stirring. Upon reaction completion satd. aq. ammonium chloride (100 mL) was added and the bulk of the tetrahydrofuran evaporated under a nitrogen stream. The aqueous layer was then extracted with ethyl acetate (3×300 mL). The combined organics were dried over magnesium sulfate, filtered, and concentrated in vacuo. The crude was purified by silica gel chromatography with ethyl acetate:hexanes (3:17) to give the title compound (1.73 g).

reactant | (4-Cyano-3-fluoro-phenyl)-acetic acid methyl ester | 15.84 mmol, 3.06 g | COC(CC1=CC(=C(C=C1)C#N)F)=O | C10H8FNO2
reactant | Lithium bis(trimethylsilyl)amide | 1.0 M, 17.42 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | methyliodide | 4.91 mL | CI | CH3I
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | 2-(4-Cyano-3-fluoro-phenyl)-propionic acid methyl ester | 1.73 g | COC(C(C)C1=CC(=C(C=C1)C#N)F)=O | C11H10FNO2
